US04619929
1-[3-(1,3,4-oxadiazol-2-yl)-phenoxy]-3-[4-(4-fluorophenyl)-piperazin-1-yl]-propane
The preparation is carried out as described in Example 1, using 3-(1,3,4-oxadiazol-2-yl)-phenol and 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine. The crude product is recrystallized from toluene/petroleum ether, and a product of melting point 105°-106° C. is obtained (yield: 68%).

reactant | 3-(1,3,4-oxadiazol-2-yl)-phenol | O1C(=NN=C1)C=1C=C(C=CC1)O | C8H6N2O2
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl)-piperazine | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
product | 1-[3-(1,3,4-oxadiazol-2-yl)-phenoxy]-3-[4-(4-fluorophenyl)-piperazin-1-yl]-propane | yield: 68% | O1C(=NN=C1)C=1C=C(OCCCN2CCN(CC2)C2=CC=C(C=C2)F)C=CC1 | C21H23FN4O2
